US07276612B2
To a solution of 5-(2-pyrrolidin-1-ylethoxy)benzofuran-2-carboxylic acid (156 mg, 0.50 mmol) and 4-(2-aminoethoxy)benzoic acid methyl ester hydrochloride (129 mg, 0.56 mmol) in DMF (4.5 ml) in a 20 ml vial was added diisopropylethylamine (0.88 ml, 5.1 mmol). A solution of O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (740 μL, 0.82 M, 0.61 mmol) in DMF was added to give a bright yellow solution. The vial was purged with nitrogen and stirred at room temperature for 18 h. The solution was removed and the residue was dissolved in EtOAc (25 ml) and washed with H2O, 1.0M aqueous K2CO3, and brine. The organic layer was dried over anhydrous MgSO4 and solvent was removed on a rotary evaporator. Purification of the residue by column chromatography on a silica gel column using 93:5:2 CH2Cl2:MeOH:TEA eluent provided 4-{2-[5-(2-pyrrolidin-1-ylethoxy)benzofuran-2-carbonylamino]-ethoxy}-benzoic acid methyl ester as a beige solid (174 mg).

reactant | 5-(2-pyrrolidin-1-ylethoxy)benzofuran-2-carboxylic acid | 0.50 mmol, 156 mg | N1(CCCC1)CCOC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C15H17NO4
reactant | 4-(2-aminoethoxy)benzoic acid methyl ester hydrochloride | 0.56 mmol, 129 mg | Cl.COC(C1=CC=C(C=C1)OCCN)=O
reactant | diisopropylethylamine | 5.1 mmol, 0.88 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.61 mmol, 0.82 M, 740 μL | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
product | 4-{2-[5-(2-pyrrolidin-1-ylethoxy)benzofuran-2-carbonylamino]-ethoxy}-benzoic acid methyl ester | 174 mg | COC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1)C=C(C=C2)OCCN2CCCC2)=O | C25H28N2O6
